US06211215B1
In substantially the same manner as in Reference Example 47, 4,5,6,7-tetrahydro-2-benzothiophene carboxamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(4,5,6,7-tetrahydro-2-benzothienyl)oxazole. The yield was 53%. Recrystallization from ethyl acetate-hexane gave colorless needles, mp 102-103° C.

reactant | 4,5,6,7-tetrahydro-2-benzothiophene carboxamide | S1C(=CC2=C1CCCC2)C(=O)N | C9H11NOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(4,5,6,7-tetrahydro-2-benzothienyl)oxazole | yield was 53% | ClCC=1N=C(OC1)C=1SC2=C(C1)CCCC2 | C12H12ClNOS
